US04048185
12 Parts by weight of dimethylterephthalate, 8 parts by weight of ethylene-glycol and 0.025 % of the brightener compound No. 201 (cf. Table shown above) were melted under a nitrogen atmosphere in a stainless stell vessel provided with a stirring device, at a temperature of from 140° to 150° C. After the melt had reached a temperature of 145° C, it was mixed with 0.02 parts of manganese acetate dissolved in one part of glycol. In a temperature range of from 160° to 220° C, the transesterification was carried out within 3 hours under atmospheric pressure, in which process methanol and, towards the end, part of the glycol were distilled off. The bis-(β-hydroxyethyl)-terephthalate obtained was brought to a temperature of 240° C in a condensation vessel made of stainless steel, after 1 part by weight of ethylene-glycol had been added, together with

reactant | dimethylterephthalate | COC(C1=CC=C(C(=O)OC)C=C1)=O | C10H10O4
reactant | ethylene-glycol | C(CO)O | C2H6O2
reactant | methanol | CO | CH4O
catalyst | manganese acetate | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
product | bis-(β-hydroxyethyl)-terephthalate | OCCOC(C1=CC=C(C(=O)OCCO)C=C1)=O | C12H14O6
